US06903114B2
(a) 3-Methoxy-naphthalen-2-ol
Dimethylsulfate (32 ml) was added to the solution of 2,3-dihydroxynaphthalene (32 g) and sodium hydroxide (10 M, 32 ml) in water (300 ml). After being stirred for six hours at room temperature, the side product 2,3-dimethoxynaphthalene was filtered off (yield 16.6 g). The water phase was acidified, stirred on ice bath, filtered, washed with water and recrystallized from ethanol-water (3:2). Yield: 13.5 g, melting point 108-109° C.

reactant | Dimethylsulfate | 32 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 2,3-dihydroxynaphthalene | 32 g | OC1=CC2=CC=CC=C2C=C1O | C10H8O2
reactant | sodium hydroxide | 10 M, 32 ml | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 3-Methoxy-naphthalen-2-ol | COC=1C(=CC2=CC=CC=C2C1)O | C11H10O2
